### PR TITLE
Allow open terms in "apply ->" and "apply <-" (fix #18177).

### LINKED ISSUE #18177: Unexpected `apply ->` behavior
This small snippet shows unexpected `apply ->` behavior, strangely failing to infer implicit parameters:
```coq
From Coq Require Import PeanoNat.

Arguments Nat.succ_lt_mono {n m}.

Lemma foo (n m : nat) : S n < S m -> n < m.
Proof. intros H. now apply Nat.succ_lt_mono. Qed. (* ok *)

Lemma bar (n m : nat) : n < m -> S n < S m.
Proof.
  intros H.
  apply ->Nat.succ_lt_mono. (* not ok *)
```
The last `apply` fails with:
```text
Cannot infer the implicit parameter n of Nat.succ_lt_mono whose type is 
"nat" in environment:
n, m : nat
H : n < m
```
Now, as @silene wrote [here](https://coq.zulipchat.com/#narrow/stream/237656-Coq-devs-.26-plugin-devs/topic/remove.20deprecated.20files.20in.20Arith.3F/near/396937027), this would have been different if `apply ->` was defined with
```coq
Tactic Notation "apply" "->" open_constr(lemma) := ...
```
insted of `constr` (see `Coq.Init.Tactics.v`. Indeed, this works:
```coq
From Coq Require Import PeanoNat.

Tactic Notation "apply" "->" open_constr(lemma) :=
bapply lemma ltac:(fun H => destruct H as [H _]; apply H).

Arguments Nat.succ_lt_mono {n m}.

Lemma foo (n m : nat) : S n < S m -> n < m.
Proof. intros H. now apply Nat.succ_lt_mono. Qed. (* ok *)

Lemma bar (n m : nat) : n < m -> S n < S m.
Proof.
  intros H.
  apply ->Nat.succ_lt_mono. (* ok *)
```
I feel I'm still too much a beginner to play around with the standard tactics of Coq. That's why I'm opening this issue (instead of a PR).

### PR DESCRIPTION
**Pull request by silene**
In particular, these tactics can now be used with a symbol that has some implicit arguments.

Fixes / closes #18177

- [X] Added / updated **test-suite**.
- [X] Added **changelog**.
- [ ] Opened **overlay** pull requests.

### CODE REVIEW

**Review by andres-erbsen — APPROVED** [review]

File: doc/changelog/05-Ltac-language/18946-apply.rst [hunk 1]
```diff
@@ -0,0 +1,7 @@
+- **Changed:**
+  When used with a direction :n:`->` or :n:`<-`, :tacn:`apply` now accepts an open term,
+  assuming its holes can be inferred during application, as was already the case for plain
```
Comment (SkySkimmer) [inline doc/changelog/05-Ltac-language/18946-apply.rst:3]: I'm not sure what the precise meaning of "assuming" is supposed to be here.
For instance if we do
~~~coq
Axiom foo : unit -> True <-> True.

Goal True.
  apply <- (foo _).
~~~
in master it fails and with this PR it succeeds leaving a shelved `unit` goal.

Comment (andres-erbsen) [reply doc/changelog/05-Ltac-language/18946-apply.rst:3]: Good catch. I should trust my Ltac reading skills less.

Comment (silene) [reply doc/changelog/05-Ltac-language/18946-apply.rst:3]: Sure, but note that the following one succeeds on master too.
```coq
Axiom foo : unit -> True <-> True.
Goal True.
  let v := open_constr:(foo _) in apply <- v.
```

So, this pull request is not adding some new semantic behaviors, it is just removing a syntactic limitation.

If you think this will make the changelog clearer, I can stop the entry just after "open term".

Comment (SkySkimmer) [reply doc/changelog/05-Ltac-language/18946-apply.rst:3]: Not sure how that matters, you can do regular `apply` with a ltac-bound open_constr too.

Comment (silene) [reply doc/changelog/05-Ltac-language/18946-apply.rst:3]: Everybody agrees, and if you know how to do that, feel free to implement it.

File: theories/Init/Tactics.v [hunk 2]
```diff
@@ -140,16 +140,16 @@ let H := fresh in
...
-Tactic Notation "apply" "<-" constr(lemma) :=
+Tactic Notation "apply" "<-" open_constr(lemma) :=
 bapply lemma ltac:(fun H => destruct H as [_ H]; apply H).
 
-Tactic Notation "apply" "->" constr(lemma) "in" hyp(J) :=
+Tactic Notation "apply" "->" open_constr(lemma) "in" hyp(J) :=
 bapply lemma ltac:(fun H => destruct H as [H _]; apply H in J).
 
-Tactic Notation "apply" "<-" constr(lemma) "in" hyp(J) :=
+Tactic Notation "apply" "<-" open_constr(lemma) "in" hyp(J) :=
```
Comment (andres-erbsen) [inline theories/Init/Tactics.v:152]:
```suggestion
Tactic Notation "apply" "->" uconstr(lemma) :=
bapply lemma ltac:(fun H => destruct H as [H _]; apply H).

Tactic Notation "apply" "<-" uconstr(lemma) :=
bapply lemma ltac:(fun H => destruct H as [_ H]; apply H).

Tactic Notation "apply" "->" uconstr(lemma) "in" hyp(J) :=
bapply lemma ltac:(fun H => destruct H as [H _]; apply H in J).

Tactic Notation "apply" "<-" uconstr(lemma) "in" hyp(J) :=
```

Comment (SkySkimmer) [reply theories/Init/Tactics.v:152]: `lemma` will be fed to `pose proof` in `bapply` so this seems equivalent to master?

File: test-suite/bugs/bug_18177.v [hunk 3]
```diff
@@ -0,0 +1,9 @@
+From Coq Require Import PeanoNat.
+
+Arguments Nat.succ_lt_mono {n m}.
+
+Lemma bar (n m : nat) : n < m -> S n < S m.
+Proof.
+  intros H.
+  now apply -> Nat.succ_lt_mono.
+Qed.
```
Comment (andres-erbsen) [inline test-suite/bugs/bug_18177.v:9]:
```suggestion
Qed.

Axiom foo : unit -> True <-> True.
Axiom bar : True <-> True.
Goal True. 
  Fail apply (foo _). (* Cannot infer this placeholder of type "unit". *)
  Fail apply <-(foo _). (* Cannot infer this placeholder of type "unit". *)
  apply bar.
  apply foo; try exact tt.
  apply <- foo; try exact tt.
  apply -> foo; try exact tt.
  pose proof I as H.
  apply <- foo in H; try exact tt.
  apply -> foo in H; try exact tt.
  Fail apply (foo _) in H. (* Cannot infer this placeholder of type "unit". *)
  Fail apply <-(foo _) in H. (* Cannot infer this placeholder of type "unit". *)
  exact I.
Qed.
```

File: theories/Init/Tactics.v (hunk 2 above)
Comment (silene) [reply theories/Init/Tactics.v:152]: Yes, this should be equivalent. In particular, this does not solve the original bug, that is, the inability to pass symbols with implicit arguments to `apply <->`.

File: doc/changelog/05-Ltac-language/18946-apply.rst (hunk 1 above)
Comment (andres-erbsen) [reply doc/changelog/05-Ltac-language/18946-apply.rst:3]: I made another attempt at https://github.com/andres-erbsen/coq/tree/fix-18177; it passes both tests so far

Comment (Villetaneuse) [reply doc/changelog/05-Ltac-language/18946-apply.rst:3]: Thank you for working on it. What are we supposed to review and test, this PR or @andres-erbsen's branch?
